US04413010
In an analogous manner to that described in the preceding paragraph, hydroquinone and 3-trifluoromethyl-chlorobenzene in the presence of a catalytic amount of copper powder yield p-(α,α,α-trifluoro-m-tolyloxy)-phenol which distils in the bulb-tube at 140° C./0.05 Torr; nD20 =1.5370.

reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 3-trifluoromethyl-chlorobenzene | FC(C=1C=C(C=CC1)Cl)(F)F | C7H4ClF3
catalyst | copper | [Cu] | Cu
product | p-(α,α,α-trifluoro-m-tolyloxy)-phenol | FC(C1=CC(=CC=C1)OC1=CC=C(C=C1)O)(F)F | C13H9F3O2
